US07932254B2
A mixture of 2,2-dimethyl-1-(2-tributylstannanyl-5H-pyrrolo[2,3-b]pyrazin-7-yl)-propan-1-one (115 mg, 0.23 mmol), 2-bromo-6-pyrrolidin-1-yl-pyridine (53 mg, 0.23 mmol), and Pd(PPh3)4 (27 mg, 0.023 mmol) in dioxane (1 mL) was stirred at 140° C. in a microwave for 1 h. The resulting mixture was treated with additional Pd(PPh3)4 (27 mg, 0.023 mmol), stirred at 150° C. in a microwave for 30 min, and concentrated. The crude product was purified by flash chromatography using 4 g of silica gel and EtOAc in hexanes as eluant, 3 consecutive purifications by preparative thin layer chromatography using 2:1 hexanes:EtOAc as eluant, and a recrystallization from CH2Cl2 and ethyl ether to provide 1.5 mg of 2,2-dimethyl-1-[2-(6-pyrrolidin-1-yl-pyridin-2-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one as a yellow powder. M+H 350.

reactant | 2,2-dimethyl-1-(2-tributylstannanyl-5H-pyrrolo[2,3-b]pyrazin-7-yl)-propan-1-one | 0.23 mmol, 115 mg | CC(C(=O)C1=CNC2=NC=C(N=C21)[Sn](CCCC)(CCCC)CCCC)(C)C
reactant | 2-bromo-6-pyrrolidin-1-yl-pyridine | 0.23 mmol, 53 mg | BrC1=NC(=CC=C1)N1CCCC1 | C9H11BrN2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.023 mmol, 27 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.023 mmol, 27 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2-dimethyl-1-[2-(6-pyrrolidin-1-yl-pyridin-2-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 1.5 mg | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=NC(=CC=C2)N2CCCC2)(C)C | C20H23N5O
